US04515626
Production of 2-amino-4-(3-chloropropyl)-6-trichloromethyl-1,3,5-triazine (intermediate)
102.3 g of 2-(3-chloropropyl)-4,6-bis-(trichloromethyl)-1,3,5-triazine are dissolved in 100 ml of tetrahydrofuran, and to this solution are added, whilst it is being stirred at room temperature, 400 ml of concentrated aqueous ammonia solution. After 30 minutes are added 500 ml of water, and the reaction mixture is extracted twice with 100 ml of ether each time. The ether phases are dried over magnesium sulfate, filtered, and concentrated by evaporation to yield 68.3 g of the title product as light-brown oil.

reactant | 2-(3-chloropropyl)-4,6-bis-(trichloromethyl)-1,3,5-triazine | 102.3 g | ClCCCC1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl | C8H6Cl7N3
reactant | ammonia | 400 ml | N | H3N
reactant | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-amino-4-(3-chloropropyl)-6-trichloromethyl-1,3,5-triazine | 68.3 g | NC1=NC(=NC(=N1)CCCCl)C(Cl)(Cl)Cl | C7H8Cl4N4
